US07045551B2
Step A: 4-(3-Vinyl-phenyl)-morpholine
Mixture of 3-bromo-styrene (11.2 g, 61.2 mmol), morpholine (123 mL), palladium acetate (343 mg, 2.5 mol %), di-t-butyl-biphenylphosphine (911 mg, 5 mol %), sodium t-butyloxide (6.47 g, 67.4 mmol) was stirred at 80° C. in a sealed tube for 30 minutes. After cooling down, the reaction mixture was diluted with dichloromethane (250 mL) and washed with water (100 mL). The aqueous layer was extracted with dichloromethane (2×125 mL) and the combined organic layer was dried over magnesium sulfate and concentrated under vacuum. The crude product was purified by Flash Chromatography of Biotage with 30% Ethyl Acetate/Hexanes. The title compound was obtained as pale yellow clear oil (10.7 g, 93% yield).

reactant | 3-bromo-styrene | 61.2 mmol, 11.2 g | BrC=1C=C(C=C)C=CC1 | C8H7Br
reactant | morpholine | 123 mL | N1CCOCC1 | C4H9NO
reactant | sodium t-butyloxide | 67.4 mmol, 6.47 g | C(C)(C)(C)OC(C)(C)C.[Na]
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
catalyst | palladium acetate | 343 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(3-Vinyl-phenyl)-morpholine | C(=C)C=1C=C(C=CC1)N1CCOCC1 | C12H15NO
